US09145414B2
Tert-amyl alcohol (100 mL) was added to tris(dibenzylideneacetone)dipalladium(0) (460 mg), 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropyl-1,1′-biphenyl (960 mg), 3-thiophene boronic acid (9.60 g), 2-chloropyrimidine (5.72 g), potassium phosphate (21.2 g), and molecular sieve 4 A (12.5 g). The reaction solution was stirred at 100° C. overnight. The insolubles were filtrated, and then the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-(thiophen-3-yl) pyrimidine as a white solid.

reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropyl-1,1′-biphenyl | 960 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 3-thiophene boronic acid | 9.60 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 2-chloropyrimidine | 5.72 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium phosphate | 21.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 460 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Tert-amyl alcohol | 100 mL | C(C)(C)(CC)O | C5H12O
product | 2-(thiophen-3-yl) pyrimidine | S1C=C(C=C1)C1=NC=CC=N1 | C8H6N2S
